US03975390
3-Nitro-4-chloro-benzophenone is reacted with pyrrolidine as described in Examples 7 or 8 to obtain 3-nitro-4-pyrrolidino-benzophenone with a yield of 95 %. The crystalline product melts at 89.5° - 90.5 °C.

reactant | 3-Nitro-4-chloro-benzophenone | [N+](=O)([O-])C=1C=C(C(=O)C2=CC=CC=C2)C=CC1Cl | C13H8ClNO3
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 3-nitro-4-pyrrolidino-benzophenone | yield of 95 % | [N+](=O)([O-])C=1C=C(C(=O)C2=CC=CC=C2)C=CC1N1CCCC1 | C17H16N2O3
